US06063789
Methoxy-2-methylbenzonitrile
Hydroxylamine hydrochloride (0.75 g, 11 mmol) was added to 3-methoxy-2-methylbenzaldehyde (1.25 g, 8.32 mmol) in formic acid (89-91%) (10 ml), and the mixture heated to reflux for 40 min., cooled, diluted with ice-cold water, basified with 10% aqueous sodium hydroxide solution and extracted with diethyl ether. The organic extract was washed with saturated aqueous sodium chloride (50 ml), dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography over silica gel eluting with 5% diethyl ether in hexane to afford the product as a white solid (0.98 g). M+ 147; 360 MHz 1H n.m.r (CDCl3) 7.26-7.17 (2H, m), 7.02 (1H, d, J 7.9 Hz), 3.86 (3H, s), 2.41 (3H, s).

reactant | Hydroxylamine hydrochloride | 11 mmol, 0.75 g | Cl.NO
reactant | 3-methoxy-2-methylbenzaldehyde | 8.32 mmol, 1.25 g | COC=1C(=C(C=O)C=CC1)C | C9H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | Methoxy-2-methylbenzonitrile | 0.98 g | COC=1C(=C(C#N)C=CC1)C | C9H9NO
